US06919331B2
To a cooled (0° C.) solution of [2-(3-cyclopropyl-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester (34 mg, 0.064 mmol) and anisole (70 μL, 0.64 mmol) in DCM (2 mL) was added TFA (148 μL, 1.92 mmol). The solution was allowed to reach room temperature and concentrated after 4 h. The residue was stripped with DCM (2×) and methanol (1×). The TFA salt was dissolved in methanol followed by the addition of acetyl cloride (46 μL, 0.64 mmol). After 10 min the solution was concentrated in vacuo and stripped with methanol (2×) and dichloromethane (2×) to give 1-[5-aminomethyl-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-3-cyclopropyl-1H-quinazoline-2,4-dione; HCl salt (24 mg, 80%) as an off white solid.

reactant | [2-(3-cyclopropyl-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester | 0.064 mmol, 34 mg | C(C)(C)(C)OC(NCC1=CC2=C(N(C(=N2)CN2C(N(C(C3=CC=CC=C23)=O)C2CC2)=O)CCC(C)C)C=C1)=O | C30H37N5O4
reactant | anisole | 0.64 mmol, 70 μL | C1(=CC=CC=C1)OC | C7H8O
reactant | TFA | 1.92 mmol, 148 μL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | acetyl cloride | 0.64 mmol, 46 μL | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-[5-aminomethyl-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-3-cyclopropyl-1H-quinazoline-2,4-dione | NCC1=CC2=C(N(C(=N2)CN2C(N(C(C3=CC=CC=C23)=O)C2CC2)=O)CCC(C)C)C=C1 | C25H29N5O2
